### PR TITLE
Turn `FiniteSupport` into a class

### PR DESCRIPTION
**Pull request by RemyDegenne**
`FiniteSupport` becomes a class, `finiteSupport_of_prod` becomes an instance, and many explicit arguments can be removed. It is still necessary to prove some `FiniteSupport` properties of maps of measures by hand because of the measurability argument in `have : FiniteSupport (μ.map Y) := finiteSupport_of_finiteRange (hY : Measurable Y)`.

### CODE REVIEW

**Comment by sgouezel** [comment]
Doesn't `finiteSupport_of_finiteRange` always hold? (If `Y` is not aemeasurable, then the image measure is zero, so it still has finite support).

**Comment by RemyDegenne** [comment]
Thanks! Indeed it always holds and can be changed to an instance.

File: PFR/ForMathlib/FiniteRange.lean [hunk 1]
```diff
@@ -109,8 +109,23 @@ lemma FiniteRange.full {Ω G : Type*} [MeasurableSpace Ω] [MeasurableSpace G] [
...
+    [MeasurableSingletonClass G] {X : Ω → G} (hX: Measurable X) [FiniteRange X] (μ: Measure Ω) :
+    (μ.map X) (FiniteRange.toFinset X: Set G)ᶜ = 0 := by
   rw [Measure.map_apply hX]
   convert measure_empty
   ext ω; simp
   measurability
+
+lemma FiniteRange.null_of_compl₀ {Ω G : Type*} [MeasurableSpace Ω] [MeasurableSpace G]
+    [MeasurableSingletonClass G] (μ : Measure Ω)
+    {X : Ω → G} (hX : AEMeasurable X μ) [FiniteRange X] :
```
Comment (sgouezel) [inline PFR/ForMathlib/FiniteRange.lean:122]: You don't need `hX` here: otherwise, `mu.map X` is the zero measure, so the conclusion is obviously true.
